US04130652
Analogously to Example 1, there is obtained, starting with 9.5 g of 2-(2-ethoxy-2-phenyl-ethenyl)-3,4,5,6-tetrahydropyridine-tetrafluoroborate and 30 ml of cyclohexylamine, 2-[(2-phenyl-2-(cyclohexylamino)-ethenyl]-3,4,5,6-tetrahydropyridine, and from this its (1:1)-methanesulphonate, m.p. 172°-173°; and starting with 9.5 g of 2-(2-ethoxy-2-phenyl-ethenyl)-3,4,5,6-tetrahydropyridine-tetrafluoroborate and 30 ml of diethylamine, is obtained 2-[2-phenyl-2-(diethylamino)-ethenyl]-3,4,5,6-tetrahydropyridine, and from this its (1:1)-fumarate, m.p. 169°-170° (from isopropanol).

reactant | 2-(2-ethoxy-2-phenyl-ethenyl)-3,4,5,6-tetrahydropyridine tetrafluoroborate | 9.5 g | C(C)OC(=CC1=NCCCC1)C1=CC=CC=C1.F[B-](F)(F)F
reactant | cyclohexylamine | 30 ml | C1(CCCCC1)N | C6H13N
reactant | (2-phenyl-2-(cyclohexylamino)-ethenyl]-3,4,5,6-tetrahydropyridine | C1(=CC=CC=C1)C(=CC1=NCCCC1)NC1CCCCC1 | C19H26N2
reactant | methanesulphonate | CS(=O)(=O)[O-]
reactant | 2-(2-ethoxy-2-phenyl-ethenyl)-3,4,5,6-tetrahydropyridine tetrafluoroborate | 9.5 g | C(C)OC(=CC1=NCCCC1)C1=CC=CC=C1.F[B-](F)(F)F
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
product | 2-[2-phenyl-2-(diethylamino)-ethenyl]-3,4,5,6-tetrahydropyridine | C1(=CC=CC=C1)C(=CC1=NCCCC1)N(CC)CC | C17H24N2
